US03954779
4-(4'-Hydroxycyclohexyl)-2,2,6,6-tetramethylpiperidine
10 parts of 4-(4'-hydroxyphenyl)-2,2,6,6-tetramethylpiperidine were dissolved in 150 parts of ethanol and treated with 30 parts of water, the mixture being warmed to maintain solution. The solution was then hydrogenated using 3 parts of ruthenium on carbon (5%) catalyst at 125° C and 100 atmospheres of hydrogen. The catalyst was separated and the solvent evaporated under reduced pressure. The residue was dissolved in chloroform, dried with magnesium sulphate and evaporated under reduced pressure. The residue was crystallised from petroleum (b.p. 80°-100° C) to yield the desired product melting at 145°-150° C and having the following elemental analysis.

reactant | 4-(4'-hydroxyphenyl)-2,2,6,6-tetramethylpiperidine | OC1=CC=C(C=C1)C1CC(NC(C1)(C)C)(C)C | C15H23NO
reactant | water | O | H2O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | ruthenium on carbon | [Ru] | Ru
product | 4-(4'-Hydroxycyclohexyl)-2,2,6,6-tetramethylpiperidine | OC1CCC(CC1)C1CC(NC(C1)(C)C)(C)C | C15H29NO
